US07074800B1
Ammonium formate (20 g, 326 mmol) and 10% palladium on carbon (1 g) were added to a solution of 7-benzyloxy-4-(2,3-dimethylindol-5-ylamino)-6-methoxyquinazoline (10 g, 22 mmol) in DMF (100 ml) and methanol (300 ml). After stirring for 3 hours at ambient temperature, aqueous ammonia (120 ml) was added. The precipitate was filtered, washed with water and dried under vacuum. The residue was triturated with ethyl acetate and ether and was filtered, dried under vacuum and purified by column chromatography eluting with methanol/methylene chloride (5/95 followed by 10/90) to give 4-(2,3-dimethylindol-5-ylamino)-7-hydroxy-6-methoxyquinazoline (5.5 g, 75%).

reactant | Ammonium formate | 326 mmol, 20 g | C(=O)[O-].[NH4+]
reactant | 7-benzyloxy-4-(2,3-dimethylindol-5-ylamino)-6-methoxyquinazoline | 22 mmol, 10 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC=1C=C2C(=C(NC2=CC1)C)C)OC | C26H24N4O2
reactant | ammonia | 120 ml | N | H3N
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | methanol | 300 ml | CO | CH4O
product | 4-(2,3-dimethylindol-5-ylamino)-7-hydroxy-6-methoxyquinazoline | 5.5 g, 75% | CC=1NC2=CC=C(C=C2C1C)NC1=NC=NC2=CC(=C(C=C12)OC)O | C19H18N4O2
